US07192968B2
5-(tert-Butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine
Acetone (8.0 ml), water (4.0 ml), N-methyl-morpholine oxide (577 mg) and osmium tetroxide (0.039 M, 3.20 ml) were added to a solution of 5-(tert-butoxy-carbonyl)-2-(trans-styryl)-4,5,6,7-tetrahydrooxazolo-[5,4-c]pyridine (803 mg) in tetrahydrofuran (16 ml) at room temperature, and the mixture was stirred overnight. Ethyl acetate (50 ml) and a 10% aqueous solution (50 ml) of sodium thiosulfate were added to the reaction mixture to separate an organic layer. The water layer was then extracted with ethyl acetate (30 ml). After the resultant organic layers were combined and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. Methanol (8.0 ml), water (8.0 ml) and sodium metaperiodate (790 mg) were added to a solution of the residue in tetrahydrofuran (16 ml). After stirring for 3 hours, ethyl acetate (30 ml) and water (50 ml) were added to the reaction mixture to separate an organic layer. The water layer was extracted with ethyl acetate (20 ml). After the resultant organic layers were combined, washed with a saturated solution (50 ml) of sodium hydrogencarbonate and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1→2:1) to obtain the title compound (234 mg) as a colorless amorphous substance. Since this aldehyde was unstable, it was immediately used in the next reaction.

reactant | Acetone | 8.0 ml | CC(=O)C | C3H6O
reactant | N-methyl-morpholine oxide | 577 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 5-(tert-butoxy-carbonyl)-2-(trans-styryl)-4,5,6,7-tetrahydrooxazolo-[5,4-c]pyridine | 803 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(O2)\C=C\C2=CC=CC=C2 | C19H22N2O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
catalyst | osmium tetroxide | 0.039 M, 3.20 ml | [Os](=O)(=O)(=O)=O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 4.0 ml | O | H2O
product | 5-(tert-Butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridine | 234 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(O2)C=O | C12H16N2O4
